US09227975B2
Preparation of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine
A suspension of 6-chloro-3-nitroimidazo[1,2-b]pyridazine (1.0 g, 5.0 mmol) and (R)-2-(2,5-difluorophenyl)pyrrolidine (Prepared as described in Preparation A; 1.9 g, 11 mmol) in n-butanol (4.6 mL, 50 mmol) was sealed in a pressure reaction tube and stirred in a 140° C. oil bath overnight. After cooling to ambient temperature, the reaction mixture was diluted with EtOAc (250 mL), then washed with water (2×150 mL) and brine (150 mL), filtered through a Biotage Phase Separator filter paper and concentrated. The crude material was purified by silica gel chromatography, eluting with 2:1 EtOAc/hexanes to yield the product as a foamy yellow powder (1.3 g, 75% yield).

reactant | 6-chloro-3-nitroimidazo[1,2-b]pyridazine | 5.0 mmol, 1.0 g | ClC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C6H3ClN4O2
reactant | (R)-2-(2,5-difluorophenyl)pyrrolidine | 11 mmol, 1.9 g | FC1=C(C=C(C=C1)F)[C@@H]1NCCC1 | C10H11F2N
reactant | n-butanol | 50 mmol, 4.6 mL | C(CCC)O | C4H10O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine | 1.3 g, 75% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H13F2N5O2
